US04713393
A flamed dried, N2 purged 1-liter, 3-neck flask equipped with a dropping funnel mechanical stirrer, and thermometer was charged with 5-benzyloxy-2,3-dihydrobenzofuran-6-carboxaldehyde (30.00 g, 0.12 moles) and anhydrous toluene (150 ml). The resultant yellow solution was cooled to -65° C. and with efficient stirring a diisobutylaluminum hydride solution in toluene (77 ml of a 25 wt. %) was added dropwise over 30 minutes. Upon complete addition, the reaction mixture was allowed to warm to room temperature and stirred 1 hour more. The reaction mixture was poured slowly into 2N HCl (300 ml) and crushed ice (400 ml) with rapid stirring. The quenched mixture was extracted sequentially with Et2O (2×300 ml) and EtoAC (2×200 ml). The combined organic layers were washed with brine (2×300 ml), dried over MgSO4, filtered, and the filtrate concentrated in vacuo to afford 5-benzyloxy-6-hydroxymethyl-2,3-dihydobenzofuran as a white precipitate (30.0 g, 97.5%).

reactant | 5-benzyloxy-2,3-dihydrobenzofuran-6-carboxaldehyde | 0.12 moles, 30.00 g | C(C1=CC=CC=C1)OC=1C(=CC2=C(CCO2)C1)C=O | C16H14O3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | HCl | 2N, 300 ml | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 5-benzyloxy-6-hydroxymethyl-2,3-dihydobenzofuran | C(C1=CC=CC=C1)OC=1C(=CC2=C(CCO2)C1)CO | C16H16O3
